US05112977
2-(Phenylsulfonyl-)-naphthacene-5,12-dione
1 g (3.62 mmol) of 2-fluoro-naphthacene-5,12-dione, 0.89 g (5.43 mmol) of benzenesulfinic acid sodium salt (sodium benzenesulfinate) and 10 ml of DMSO are stirred at 100° C. for 3 hours. After cooling, the mixture is poured onto water. The crystals are filtered off and dissolved in THF/toluene. The solution is dried over sodium sulfate and evaporated. The residue is recrystallized from THF/toluene/pentane. Yield: 1.35 g (94%), melting point >260° C.

reactant | 2-fluoro-naphthacene-5,12-dione | 3.62 mmol, 1 g | FC1=CC=2C(C3=CC4=CC=CC=C4C=C3C(C2C=C1)=O)=O | C18H9FO2
reactant | benzenesulfinic acid sodium salt | 5.43 mmol, 0.89 g | [Na+].C1(=CC=CC=C1)S(=O)[O-]
solvent | DMSO | 10 ml | CS(=O)C | C2H6OS
product | 2-(Phenylsulfonyl-)-naphthacene-5,12-dione | C1(=CC=CC=C1)S(=O)(=O)C1=CC=2C(C3=CC4=CC=CC=C4C=C3C(C2C=C1)=O)=O | C24H14O4S
